.title package

* Combined 2 transistors into subcircuit representing the SO8 package

.include ./STS8DN6LF6AG_V2.LIB

.SUBCKT STS8DN6LF6AG_Package 1 2 3 4 5 6 7 8

XQ1 8 2 1 STS8DN6LF6AG_V2
XQ2 6 4 3 STS8DN6LF6AG_V2

* Tie pin 8 and 7 together
R1 8 7 0

* Tie pin 6 and 5 together
R1 6 5 0

.ENDS STS8DN6LF6AG_Package