*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*				 			                                    *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	        *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                        *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Note: The model doesn't take into account the drain, gate,    *
* source inductances.If these contributions have to be          *
* considered it is possible include the inductors externally.   *
*****************************************************************
* REV.10.0                                                      *
* Dec.2015                                                      *
*****************************************************************

.SUBCKT STS8DN6LF6AG_V2 drain gate source PARAMS: dVth=0 dR=0 dCi=0 dCr=0 dCo=0

*****************************************************************
E1    Tj     val_T      VALUE={TEMP}
R1   val_T   0      1m

.param Areacap={1} Area={1} GFS={1}

*****************************************************************
Rtk Tj 0 1e010
Rtk1 Tj 0 1e010
*****************************************************************
Ld drain d1k 0.5n
RLD drain d1k 10
V_Read d1k d1 0
Ls source ss 1n
RLS source ss 10
LG gate g2 1n
RLG gate g2 10

rg1 g2 g {rg}
.PARAM  rg=5

*****************************************************************
.PARAM  Vth0=2.1 KpSat0=220  KpLin0=220 Vmin=2.9 Vmax=4.9    
.PARAM  rs=16.0m drs=-1.5
.PARAM  Vthx=4m KSat=-0   KLin=-1.5    
.PARAM  lambda=0.01  rd0={3.5m/Area} rdmin={850m/Area} rdmax={1000m/Area}
.PARAM  a=1 b=1 Rx=2.0 rpa=1.0E-05 unt=-3.0 
*****************************************************************
.PARAM  rdrain={rd0+(rdmax-rd0)*limit(dR,0,1)-(rdmin-rd0)*limit(dR,-1,0)} 

.FUNC vth1(x) {(vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0))-vthx*(x-27)}

.FUNC kpsat(x) {kpsat0*((x+273)/300)**(ksat)}
.FUNC kplin(x) {kplin0*((x+273)/300)**(klin)}

********************************************************
**************************GRmos*************************

V2xx  d1 22xxx 0
E2xxx 22xxx d VALUE={R2(I(V2xx),V(TJ))}
.FUNC R2(I1,T2) {I1*(rdrain+rpa*((I1**a))**Rx)/((b*((T2+273)/300)**(unt))*Area)}

************************* GRS **************************
r_grs ss s 1k
V1xx    11xxx ss 0
E1xxx 11xxx s  VALUE={R1(LIMIT(I(V1xx),-1MEG,1MEG),V(TJ))}
.FUNC R1(I1,T1)   {-(I1)*((rs/(Area*(((T1+273)/300)**(drs)))))}

******* gmos ******

Gmos d s value {1*GFS*(IF(V(d,s)>0,(IF(limit(v(g,s),-50,50)<vth1(V(TJ)),0,
+(IF((V(d,s)<(limit(v(g,s),-50,50)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(d,s))*kplin(v(TJ))/2*v(d,s)*
+(2*(limit(v(g,s),-50,50)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(TJ))/2*(limit(v(g,s),-50,50)-vth1(V(TJ)))**2)))),-(IF(limit(v(g,s),-50,50)<vth1(V(TJ)),0,
+(IF((V(s,d)<(limit(v(g,s),-50,50)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(s,d))*kplin(v(TJ))/2*v(s,d)*
+(2*(limit(v(g,s),-50,50)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(s,d)),
+(1+LAMBDA*v(s,d))*kpsat(v(TJ))/2*(limit(v(g,s),-50,50)-vth1(V(TJ)))**2))))))} 


*****************************************************************
.PARAM Pir=0.85 
*****************************************************************
Gmos2 d s VALUE {(0.1*Gfs*(IF(V(d,s)>0,(IF(V(g,s)<Pir*Vth1(V(Tj)),0,
+(IF((V(d,s)<(V(g,s)-Pir*Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(d,s))*KpLin(V(Tj))/2*V(d,s)*
+(2*(V(g,s)-Pir*Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(d,s)),
+(1+Lambda*V(d,s))*KpSat(V(Tj))/2*(V(g,s)-Pir*Vth1(V(Tj)))**2)))),-(IF(V(g,s)<Pir*Vth1(V(Tj)),0,
+(IF((V(s,d)<(V(g,s)-Pir*Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(s,d))*KpLin(V(Tj))/2*V(s,d)*
+(2*(V(g,s)-Pir*Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(s,d)),
+(1+Lambda*V(s,d))*KpSat(V(Tj))/2*(V(g,s)-Pir*Vth1(V(Tj)))**2)))))))}
*****************************************************************
************************** Capacitance **************************
.PARAM  Ci={Ci0+(Cimax-Ci0)*limit(dCi,0,1)-(Cimin-Ci0)*limit(dCi,-1,0)}
***********************************************************
.PARAM Cimin=0.8 Cimax=1.2
.PARAM Ci0=1
**** CGS *******
CGS source g {1540p*Areacap*Ci}
RCGS source g 1000meg 

********************
***** CMiller ******
.PARAM  Cr={Cr0+(Crmax-Cr0)*limit(dCr,0,1)-(Crmin-Cr0)*limit(dCr,-1,0)}
***********************************************************
.PARAM Crmin=0.8 Crmax=1.2
.PARAM Cr0=1
Edev dev1 0 value {v(d,g)}
c_dev1 dev1 dev2 1E-12
R_dev dev2 dev3 1E-06
V_miller dev3 0 0 
G_miller d g  value ={Areacap*1.0*v(alfa)*i(V_miller)*1E12*Cr}
**********************************************************
**********************************************************
Rcap alfa 0 1E03
Ecap alfa 0 TABLE ={V(d,g)}
+(-0.1,940p)
+(0.1,493.38p) 
+(0.2,442.72p) 
+(0.5,315.66p) 
+(1,228.34p) 
+(2,172.89p) 
+(3,145.18p) 
+(5,116.72p) 
+(7,100.95p) 
+(10,86.29p) 
+(15,71.93p) 
+(20,63.59p) 
+(25,58p) 
+(30,54.24p) 
+(35,51.99p) 
+(40,51.21p) 
+(45,49.8p) 
+(50,48.77p) 
+(55,48.01p) 
+(60,47.42p) 

************************* COSS ****************************
.PARAM  Co={Co0+(Comax-Co0)*limit(dCo,0,1)-(Comin-Co0)*limit(dCo,-1,0)}
***********************************************************
.PARAM Comin=0.8 Comax=1.2
.PARAM Co0=1
Edevc dev1c 0 value {v(d,s)}
c_dev1c dev1c dev2c 1E-12
R_devc dev2c dev3c 1m
V_millerc dev3c 0 0 
G_coss d s  value ={1*Areacap*v(alfa2)*i(V_millerc)*1E12*Co}
************************************************************
Rcap2 alfa2 0 1E03
Ecap2 alfa2 0 TABLE ={V(d,s)}
+(0.1,741.25p) 
+(0.2,669.35p) 
+(0.5,500p) 
+(1,373.74p) 
+(2,282.14p) 
+(3,235.32p) 
+(5,187.33p) 
+(7,160.88p) 
+(10,136.43p) 
+(15,112.53p) 
+(20,98.5p) 
+(25,88.64p) 
+(30,81.13p) 
+(35,75.25p) 
+(40,70.22p) 
+(45,67.99p) 
+(50,66.35p) 
+(55,65.07p) 
+(60,64.08p) 
  
********************
V_sense2  sx s  0
**************************** BV ******************************

.PARAM RAV=0.021 BVDSS=1
G_bvdss   d1bvdss1   ss  VALUE={I_BVDSS(V(d1bvdss1,ss),v(Tj))}
R_GBDSS d1bvdss1 0 1E10
.FUNC  I_BVDSS(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-0p)}
.FUNC bvd(k) {0.36*BVDSS+0.00030*k}
R_bvdss d1 d1bvdss1 {RAV}

**************************** VF ******************************

.PARAM resdiodo={2m/Areacap}
V_diodo d1zd d1z 0
G_diode ss d1zd VALUE={I_diode(V(ss,d1zd),v(Tj))}
R_x ss d1zd 1E9
.FUNC I_diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-0)}
.FUNC did(k4) {0.0499-90E-06*k4}
R_G_R_didd d1 d1z {resdiodo}


.ENDS STS8DN6LF6AG_V2





